US08012976B2
2-Fluoro-N,N-dimethyl-5-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzamide
A mixture of compound ethyl 2-(3-(dimethylcarbamoyl)-4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (130 mg) in hydrazine monohydrate (85%, 2 mL) and methanol (5 mL) was stirred at room temperature for 4 h. The resulting mixture was filtered and washed with water (20 ml) and methanol (5 ml) to obtain a white solid. The solid was dried in vacuum at 50° C. to obtain the title compound (30.0 mg, yield 30%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.72 (s, 3H), 2.97 (s, 3H), 3.43 (s, 3H), 4.67-4.70 (d, J=10.8 Hz, 1H), 4.95-4.97 (d, J=10.8 Hz, 1H), 6.72-6.73 (d, J=1.2 Hz, 1H), 6.89-6.89 (d, J=0.8 Hz, 1H), 7.15-7.23 (m, 2H), 7.34-7.41 (m, 3H), 7.48-7.49 (m, 1H), 7.56-7.60 (t, J=8 Hz, 1H), 12.17 (s, 1H); LC-MS (ESI) m/z: 433 (M+1)+.

reactant | ethyl 2-(3-(dimethylcarbamoyl)-4-fluorophenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 130 mg | CN(C(=O)C=1C=C(C=CC1F)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)C | C25H25FN4O4
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 2-Fluoro-N,N-dimethyl-5-(9-(1-methyl-1H-imidazol-2-yl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzamide | 30.0 mg, yield 30% | FC1=C(C(=O)N(C)C)C=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C=CN1)C | C23H21FN6O2
